US09340538B2
Step D: (2R,3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2-methylmorpholine-3-carboxylic acid
A mixture of ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.96 g, 1.9 mmol), (2R,3S)-2-methylmorpholine-3-carboxylic acid (0.28 g, 1.9 mmol) and potassium carbonate (0.53 g, 3.8 mmol) in anhydrous ethanol (35 mL) was stirred at 25° C. for 12 hours under N2. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=15/1) to give the title compound as a yellow solid (0.48 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.9 mmol, 0.96 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (2R,3S)-2-methylmorpholine-3-carboxylic acid | 1.9 mmol, 0.28 g | C[C@@H]1[C@H](NCCO1)C(=O)O | C6H11NO3
reactant | potassium carbonate | 3.8 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | (2R,3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2-methylmorpholine-3-carboxylic acid | 0.48 g, 45% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H]([C@H](OCC1)C)C(=O)O)C(=O)OCC | C23H24BrFN4O5S
